US09371327B2
Step 6: 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
A suspension of 5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (103 mg, 0.4 mmol), 1-(4-(bromomethyl)phenyl)-1H-1,2,4-triazole (93 mg, 0.48 mmol) and cesium carbonate (195 mg, 0.6 mmol) in anhydrous DMF (3 mL) is stirred at room temperature for 3 hours. The mixture is diluted with 20 mL of saturated sodium bicarbonate, and then extracted with CH2Cl2 three times. The combined organic phase is washed with brine, and then dried with anhydrous Na2SO4. After filtration through celite, the filtrate is concentrated to dryness under vacuum to give 160 mg of crude product as light brown solids, which is used in the next step without further purification. MS (ESI) m/z 413.2 [M+H]+.

reactant | 5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.4 mmol, 103 mg | ClC=1NC=C2N(C(N(C(C21)=O)C)=O)CC(C)C | C11H14ClN3O2
reactant | 1-(4-(bromomethyl)phenyl)-1H-1,2,4-triazole | 0.48 mmol, 93 mg | BrCC1=CC=C(C=C1)N1N=CN=C1 | C9H8BrN3
reactant | cesium carbonate | 0.6 mmol, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
product | 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 160 mg | N1(N=CN=C1)C1=CC=C(CN2C=C3N(C(N(C(C3=C2Cl)=O)C)=O)CC(C)C)C=C1 | C20H21ClN6O2
